US08809371B2
Potassium carbonate (115 mg) and 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (50 mg) were added to a tube containing a 1,4-dioxane (2 ml) solution containing (R)-2-(2-aminopropyl)isoindoline-1,3-dione (52 mg) and the tube was sealed, followed by stirring with heating at 140° C. for 13 hours. The reaction solution was adjusted to room temperature, and a saturated aqueous sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=3:2), and a yellow solid of (R)-6-((1-(1,3-dioxoisoindolin-2-yl)propan-2-yl)amino)-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (57 mg) was thus obtained.

reactant | Potassium carbonate | 115 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 50 mg | ClC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C15H8ClFN4
reactant | (R)-2-(2-aminopropyl)isoindoline-1,3-dione | 52 mg | N[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)C | C11H12N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (R)-6-((1-(1,3-dioxoisoindolin-2-yl)propan-2-yl)amino)-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 57 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H](C)NC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C26H19FN6O2
